US07109222B2
Preparation of {6-[4-Methyl-2-(4-trifluoromethylphenyl)thiazol-5-ylmethylsulfanyl]-1-oxo-3,4-dihydro-1H-naphthalen-2-ylidene}-acetic acid (compound 7D)
A slurry of 6-[4-methyl-2-(4-trifluoromethylphenyl)thiazol-5-ylmethylsulfanyl]-3,4-dihydro-2H-naphthalen-1-one (2.0 g, 4.6 mmol) in glyoxylic acid monohydrate (2.0 g, 22 mmol), under nitrogen atmosphere, was warmed to 160° C. and stirred for 1 h. The reaction mixture was cooled to room temperature, dissolved in EtOAc (100 mL) and filtered. The filtrate was washed with water (50 mL×3) and brine. The organic phase was dried over magnesium sulfate, concentrated under vacuum, and purified by recrystallization in ethanol to give 1.02 g (45%) of yellow solid. Analyzed for C24H18NO3S2: Calcd: C, 58.89%; H, 3.71%; N, 2.86%; Found: C, 58.715; H, 3.56%; N, 2.77.

reactant | 6-[4-methyl-2-(4-trifluoromethylphenyl)thiazol-5-ylmethylsulfanyl]-3,4-dihydro-2H-naphthalen-1-one | 4.6 mmol, 2.0 g | CC=1N=C(SC1CSC=1C=C2CCCC(C2=CC1)=O)C1=CC=C(C=C1)C(F)(F)F | C22H18F3NOS2
reactant | glyoxylic acid monohydrate | 22 mmol, 2.0 g | O.C(C=O)(=O)O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | {6-[4-Methyl-2-(4-trifluoromethylphenyl)thiazol-5-ylmethylsulfanyl]-1-oxo-3,4-dihydro-1H-naphthalen-2-ylidene}-acetic acid | 1.02 g, 45% | CC=1N=C(SC1CSC=1C=C2CCC(C(C2=CC1)=O)=CC(=O)O)C1=CC=C(C=C1)C(F)(F)F | C24H18F3NO3S2
